US08058355B2
U.S. Pat. No. 5,135,984 describes a method for modifying a chlorinated polyolefin with maleic anhydride and an acrylic-modified hydrogenated polybutadiene. This method involves the graft copolymerization of the chlorinated polyolefin with the maleic acid anhydride and acrylate modified hydrogenated polybutadiene by heating the mixture in the presence of a peroxide initiator. This results in an acrylic- and maleic anhydride-modified chlorinated polyolefin.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acrylate | C(C=C)(=O)[O-]
product | acrylic- and maleic anhydride | C(\C=C/C(=O)O)(=O)OC(C=C)=O | C7H6O5
